US05710314
A solution of 1.84 g of o-cresol in 15 ml of dimethylformamide is added dropwise at 20° C. to a suspension of 0.4 g of sodium hydride in 5 ml of dimethylformamide. After 3 hours a solution of 5.0 g of 2-(bromomethyl)-phenylglyoxalic acid methyl ester O-fluoromethyl oxime in 25 ml of dimethylformamide is added dropwise to the brown suspension. After 16 hours 0.3 g of thiourea is added thereto and the reaction mixture is heated at 30° C. for 0.5 hour. The reaction mixture is then poured onto a saturated sodium chloride solution and extraction is carried out with ethyl acetate. The combined organic phases are washed with water, dried over sodium sulfate, filtered and concentrated by evaporation. Chromatography on silica gel with hexane/ethyl acetate (9:1) yields pure 2-(2-methylphenoxymethyl)-phenylglyoxalic acid methyl ester O-fluoromethyl oxime; m.p. 101°-102° C.

reactant | o-cresol | 1.84 g | C1(=CC=CC=C1O)C | C7H8O
reactant | sodium hydride | 0.4 g | [H-].[Na+]
reactant | 2-(bromomethyl)-phenylglyoxalic acid methyl ester O-fluoromethyl oxime | 5.0 g | FCON=C(C(=O)OC)C1=C(C=CC=C1)CBr | C11H11BrFNO3
reactant | thiourea | 0.3 g | NC(=S)N | CH4N2S
reactant | sodium chloride | [Cl-].[Na+]
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2-methylphenoxymethyl)-phenylglyoxalic acid methyl ester O-fluoromethyl oxime | FCON=C(C(=O)OC)C1=C(C=CC=C1)COC1=C(C=CC=C1)C | C18H18FNO4
